US05112971
Example 23 was repeated, provided that the compounds shown in 1st, 2nd and 3rd columns of the following table were used in place of the 1-amino-4-(3'-amino-2',4',6'-trimethyl-5'-sulfophenylthio)anthraquinone-2-sulfonic acid, cyanuric chloride and 1-aminobenzene-3-β-sulfatoethylsulfone, respectively thereby obtaining a corresponding anthraquinone compound. A color shade on cotton of the compound is as shown in a 4th column of the table.

reactant | 1-amino-4-(3'-amino-2',4',6'-trimethyl-5'-sulfophenylthio)anthraquinone-2-sulfonic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)SC1=C(C(=C(C(=C1C)S(=O)(=O)O)C)N)C)S(=O)(=O)O | C23H20N2O8S3
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
